US08445509B2
Production of N-[6-(4-amino-2-fluorophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide
A solution of N-[6-(2-fluoro-4-nitrophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide (400 mg, 1.12 mmol), reduced iron (312 mg, 5.59 mmol) and ammonium chloride (600 mg, 11.2 mmol) in ethanol (8 mL) and water (2 mL) was heated under reflux for 1.5 hr. The reaction mixture was filtered through celite, and the filtrate was diluted with water and ethyl acetate and extracted 3 times with ethyl acetate. The combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/2→ethyl acetate/methanol=9/1) to give the title compound (125 mg, 34%) as a white solid.

reactant | N-[6-(2-fluoro-4-nitrophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 1.12 mmol, 400 mg | FC1=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C=CC(=C1)[N+](=O)[O-] | C16H12FN5O4
reactant | ammonium chloride | 11.2 mmol, 600 mg | [Cl-].[NH4+]
solvent | ethanol | 8 mL | C(C)O | C2H6O
solvent | water | 2 mL | O | H2O
product | N-[6-(4-amino-2-fluorophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 125 mg, 34% | NC1=CC(=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C=C1)F | C16H14FN5O2
